US05405870
3-(5-Benzyloxypentyl)-7-oxo-cis-bicyclo-[3,3,0]-oct-2-ene
6.65 g of 3-(5-benzyloxypentyl)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]oct-2-ene (prepared as described in Preparation 4 or 10) were added to a mixture of 120 ml of acetone, 45 ml of water and 1.0 ml of concentrated hydrochloric acid, and the mixture was stirred for 2 hours at room temperature. After completion of the reaction, sodium bicarbonate was added to the reaction mixture for neutralization, and acetone was distilled off under reduced pressure. A saturated aqueous solution of sodium chloride was added to the residue, and then the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was distilled off from the extract under reduced pressure, giving 6.00 g of residue. On purifying this residues by silica gel column chromatography, 5.33 g of the title compound were obtained from the fractions eluted with hexane containing 7-10% by volume of ethyl acetate.

reactant | 3-(5-benzyloxypentyl)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]oct-2-ene | 6.65 g | C(C1=CC=CC=C1)OCCCCCC1=C[C@@H]2CC3(C[C@@H]2C1)OCCO3 | C22H30O3
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 45 ml | O | H2O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 3-(5-Benzyloxypentyl)-7-oxo-cis-bicyclo-[3,3,0]-oct-2-ene | 6.00 g | C(C1=CC=CC=C1)OCCCCCC1=C[C@@H]2CC(C[C@@H]2C1)=O | C20H26O2
